US08022062B2
2-Bromomethyl-6-chloropyridine
Heat a mixture of 2-chloro-6-methylpyridine (5.46 g, 42.8 mmol), NBS (8.38 g, 47.08 mmol), and benzoyl peroxide (500 mg, 2.06 mmol) in carbon tetrachloride (80 mL) for 20 h at 85° C. Cool to ambient temperature, filter, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/toluene (4:3) to provide the title compound as a white solid (3.64 g, 41%).

reactant | 2-chloro-6-methylpyridine | 42.8 mmol, 5.46 g | ClC1=NC(=CC=C1)C | C6H6ClN
reactant | NBS | 47.08 mmol, 8.38 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 2.06 mmol, 500 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-6-chloropyridine | 3.64 g, 41% | BrCC1=NC(=CC=C1)Cl | C6H5BrClN
